US06593326B1
2-Chloro-4-(3,4-dichloroanilino)-5-methylpyrimidine
3,4-Dichloroaniline (639 mg, 3.94 mmol) and concentrated hydrochloric acid (ca. 12M, 0.2 ml, ca. 2.4 mmol) were sequentially added to a solution of 5-methyl-2,4-dichloropyrimidine (643 mg, 3.94 mmol) in n-butanol (20 ml). The mixture was stirred at ambient temperature for 20 hours, after which time a gelatinous precipitate had fallen out of solution. DCM was added until a solution was obtained, and silica (2.5 g) was added. Volatile material was removed by evaporation and the residue was loaded on a Varian Mega Bond Elut column pre-conditioned with ethyl acetate. The column was eluted with 0-10% methanol solution in ethyl acetate containing 0.5% aqueous ammonia. The appropriate fractions were concentrated, and the residue was triturated with n-butanol (20 ml). The filtrate was evaporated onto silica (2.5 g) and loaded on a Varian Mega Bond Elut column pre-conditioned with isohexane. The column was eluted with 0-50% ethyl acetate solution in isohexane. Concentration of the appropriate fractions gave the product as a white solid (340 mg, 26%). NMR: 2.17 (s, 3H), 7.60 (d, 1H), 7.70 (dd, 1H), 8.00 (d, 1H), 8.11 (s, 1H), 8.97 (s, 1H); MS (MH+): 288.1, 290.1, 292.1.

reactant | 3,4-Dichloroaniline | 3.94 mmol, 639 mg | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | hydrochloric acid | ca. 2.4 mmol, ca. 12M, 0.2 ml | Cl | ClH
reactant | 5-methyl-2,4-dichloropyrimidine | 3.94 mmol, 643 mg | CC=1C(=NC(=NC1)Cl)Cl | C5H4Cl2N2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 2-Chloro-4-(3,4-dichloroanilino)-5-methylpyrimidine | 340 mg, 26% | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)Cl)Cl)C | C11H8Cl3N3
